US07323475B2
b) 4-Benzyloxy-1-methoxymethyl-isoquinoline-3-carboxylic acid
A mixture of 4-Benzyloxy-1-methoxymethyl-isoquinoline-3-carboxylic acid benzyl ester (198 mg, 0.48 mmol), KOH (325 mg, 5 mmol) and EtOH (10 ml) was stirred at ambient temperature for 18 h before the solvent was evaporated in vacuo. To the residue was added water (25 ml) and the mixture was washed with Et2O (2×25 ml). Then the solution was acidified by addition of aqueous 6N HCl and extracted with EtOAc (25 ml). The organic phase was dried over MgSO4 and concentrated in vacuo to give the title compound as a yellow oil (140 mg); MS-(+)-ion: M+1=324.1.

reactant | 4-Benzyloxy-1-methoxymethyl-isoquinoline-3-carboxylic acid benzyl ester | 0.48 mmol, 198 mg | C(C1=CC=CC=C1)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)COC | C26H23NO4
reactant | KOH | 5 mmol, 325 mg | [OH-].[K+]
solvent | EtOH | 10 ml | CCO | C2H6O
product | 4-Benzyloxy-1-methoxymethyl-isoquinoline-3-carboxylic acid | 140 mg | C(C1=CC=CC=C1)OC1=C(N=C(C2=CC=CC=C12)COC)C(=O)O | C19H17NO4
